US05102877
To a solution of methyl (2S)-5-pyrrolidone-2-carboxylate (80 g) in tetrahydrofuran (900 ml) was added sodium hydride (60% in oil, 23.5 g) by portions. After the addition, the reaction mixture was heated to 60° C., and benzyl bromide (69.8 ml) was added dropwise thereto. After 3 hours, the reaction mixture was cooled to room temperature and water (100 ml) was added dropwise thereto. The reaction mixture was poured into a mixture of ethyl acetate (2 l) and water (800 ml). The organic layer was separated, washed with brine, and dried over magnesium sulfate. Evaporation of the solvent gave an oil, which was chromatographed on silica gel (2 l) eluting with a mixture of hexane and ethyl acetate (1:1→1:2, V/V) to give methyl (2S)-1-benzyl-5-pyrrolidone-2-carboxylate (100.8 g).

reactant | methyl (2S)-5-pyrrolidone-2-carboxylate | 80 g | N1[C@@H](CCC1=O)C(=O)OC | C6H9NO3
reactant | sodium hydride | 23.5 g | [H-].[Na+]
reactant | benzyl bromide | 69.8 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 900 ml | O1CCCC1 | C4H8O
solvent | water | 800 ml | O | H2O
solvent | ethyl acetate | 2 l | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | methyl (2S)-1-benzyl-5-pyrrolidone-2-carboxylate | 100.8 g | C(C1=CC=CC=C1)N1[C@@H](CCC1=O)C(=O)OC | C13H15NO3
